US04508716
A solution of 6 g of 1,2,4,4a-tetrahydro-10-methoxy-7-(2furyl)-5H-[1,4]oxazino[4,3-a][1,4]benzodiazepine (for the preparation, see Example 2) in 100 ml of methylene chloride is heated under reflux with 4.2 g of 3-chloroperbenzoic acid for 3 hours. The reaction solution is then rendered alkaline with aqueous dilute sodium hydroxide solution and is worked up in the customary manner. The crude product isolated is purified by chromatography on aluminium oxide of activity level II, using methylene chloride, and is crystallised from isopropanol. 2.3 g of 1,2,4,4a-tetrahydro-10-methoxy-7-(2-furyl)-5H-[1,4]oxazino[4,3-a][1,4]benzodiazepine 6-oxide are obtained. Melting point: 183° to 186° C.

reactant | 1,2,4,4a-tetrahydro-10-methoxy-7-(2furyl)-5H-[1,4]oxazino[4,3-a][1,4]benzodiazepine | 6 g | COC1=CC2=C(C(=NCC3N2CCOC3)C=3OC=CC3)C=C1 | C17H18N2O3
reactant | 3-chloroperbenzoic acid | 4.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,2,4,4a-tetrahydro-10-methoxy-7-(2-furyl)-5H-[1,4]oxazino[4,3-a][1,4]benzodiazepine 6-oxide | 2.3 g | COC1=CC2=C(C(=[N+](CC3N2CCOC3)[O-])C=3OC=CC3)C=C1 | C17H18N2O4
